US04980363
In accordance with the method of Synthesis Example 2, 2,4-diethylthiazole-5-carboxylic acid and phosphorus pentachloride were reacted to give 2,4-diethylthiazole-5-carboxylic acid chloride quantitatively. The 2,4-diethylthiazole-5-carboxylic acid chloride was used in the following reaction without purification.

reactant | 2,4-diethylthiazole-5-carboxylic acid | C(C)C=1SC(=C(N1)CC)C(=O)O | C8H11NO2S
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 2,4-diethylthiazole-5-carboxylic acid chloride | C(C)C=1SC(=C(N1)CC)C(=O)Cl | C8H10ClNOS
